US07842688B2
b) Benzyl 4-(4-carboxymethylphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
The solution of 0.228 g of benzyl 4-[4-(2-diazoacetyl)phenyl]-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate in 3.5 ml of tetrahydrofuran is cooled to −15° C., protected from light and admixed with a solution of 0.025 g of silver trifluoroacetate in 0.153 ml of triethylamine, then 0.4 ml of water. The reaction mixture is stirred at −10° C. for 30 minutes, then at 15° C. for 24 hours, and concentrated by evaporation. The residue is dissolved in 10 ml of 0.1N NaOH and washed with 50 ml of tert-butyl methyl ether. The aqueous phase is acidified to pH 1.0 with 2N HCl and washed three times with 30 ml of tert-butyl methyl ether. The combined organic phases are dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a yellowish oil from the residue. Rt=4.72.

reactant | benzyl 4-[4-(2-diazoacetyl)phenyl]-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | 0.228 g | [N+](=[N-])=CC(=O)C1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1 | C34H38N4O6
reactant | water | 0.4 ml | O | H2O
reactant | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.153 ml | C(C)N(CC)CC | C6H15N
catalyst | silver trifluoroacetate | 0.025 g | FC(C(=O)[O-])(F)F.[Ag+]
product | Benzyl 4-(4-carboxymethylphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | C(=O)(O)CC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1 | C34H40N2O7
